US05753613
A solution of N-oleoyloleylamide (prepared above) in THF (100 mL) was warmed to 40° C. Lithium aluminum hydride was slowly added until violent evolution of gas ceased. The reaction mixture was heated to reflux for one hour and then cooled to room temperature. Methanol (100 mL) was slowly added, followed by water (200 mL). Methylene chloride was added and the resultant suspension was stirred for fifteen minutes. The slurry was filtered and the precipitate was washed with ethanol.backslash.methylene chloride (50:50, 50 mL, 2×). The combined filtrates were washed with methylene chloride. The organic fraction was dried over magnesium sulphate, filtered and the solvent was removed under vacuum. The residue was passed down a silica gel column (150 g) using 5% methanol in methylene chloride as the eluent, to provide dioleylamine as a pale yellow oil.

reactant | N-oleoyloleylamide | C(CCCCCCC\C=C/CCCCCCCC)(=O)CCCCCCCC\C=C/CCCCCCCC[NH-]
reactant | Lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Methanol | 100 mL | CO | CH4O
reactant | water | 200 mL | O | H2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | Methylene chloride | C(Cl)Cl | CH2Cl2
product | dioleylamine | C(CCCCCCC\C=C/CCCCCCCC)NCCCCCCCC\C=C/CCCCCCCC | C36H71N
